* nor2_dyn_netlist.sp
* bd68@njit.edu 19Feb22

*subcircuit netlist
.subckt NOR2D clk a b y x vdd vss
.param K_LEN=8
*pullup network
M1 x  clk vdd  vdd CMOSP W=4 L=2
M2 d2 vss vdd  vdd CMOSP W=4 L='K_LEN-2'
M3 x  y  d2    vdd CMOSP W=4 L=2
*pulldown network
M4 x  a   d6  vss CMOSN W=8 L=2
M5 x  b   d6  vss CMOSN W=8 L=2
M6 d6 clk vss vss CMOSN W=8 L=2
.ends
